US06420426B1
A suspension of {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid ethyl ester (1 g, 2.3 mmol) in ethanol (11 mL) was treated with aq 2 N NaOH (6.8 mL, 14 mmol) and stirred at room temperature. After stirring for 1 h, the solution was concentrated in vacuo and acidified to pH 1 with aq 2 N HCl. The resulting solution was diluted with ethyl acetate and washed with saturated NaCl. The organic layer was dried over MgSO4, filtered, and concentrated to give {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid. (0.68 g, 73%) as a white crystalline solid. mp 172-174° C.; Rf 0.38 (20% methanol in dichloromethane); 1H NMR (DMSO-d6 300 MHz) δ 13.25 (br s, 1H), 9.49 (t, J=6 Hz, 1H), 7.95 (dd, J1=9 Hz, J2=7.2 Hz, 1H), 7.78-7.69 (m, 1H), 7.11 (dd, J1=11.0 Hz, J2=2.3 Hz, 1H), 6.94 (dd, J1=8.4 Hz, J2=2.4 Hz, 1H), 4.94-4.92 (m, 4H). ESI-LC/MS m/z calcd for C17H10F4N2O4S: 414.3. Found 413.0 (M−1)−. Anal. calcd for C17H10F4N2O4S: C, 49.28; H, 2.43; N, 6.76. Found C, 49.26; H, 2.47; N, 6.68.

reactant | {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid ethyl ester | 2.3 mmol, 1 g | C(C)OC(COC1=C(C=CC(=C1)F)C(NCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C19H14F4N2O4S
reactant | NaOH | 14 mmol, 2 N, 6.8 mL | [OH-].[Na+]
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid | FC=1C=CC(=C(OCC(=O)O)C1)C(NCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O | C17H10F4N2O4S
